US04789675
A mixture of 2-nitrophenol (0.7 g), powdery potassium carbonate (0.7 g), methyl 2,5-dibromovalerate (1.37 g) and dimethylformamide (10 ml) was stirred at room temperature for 4 hours, to which was added ice-water, followed by extraction with ether. The ether layer was washed with water and dried (MgSO4), then the solvent was distilled off. The residue was purified by means of silica gel chromatography [eluted with hexane-ethyl acetate (1:4)] to obtain methyl 5-bromo-2-(2-nitrophenoxy)valerate as an oily product. The yield was 1.30 g (77.8%).

reactant | 2-nitrophenol | 0.7 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2,5-dibromovalerate | 1.37 g | BrC(C(=O)OC)CCCBr | C6H10Br2O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 5-bromo-2-(2-nitrophenoxy)valerate | BrCCCC(C(=O)OC)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H14BrNO5
